US05574016
To a mixture of ethyl 5-[4-{(1-ethoxy)iminomethyl}phenyl]-2,4-pentadienoate hydrochloride (22.00 g) in ethanol (220 ml) was poured 9N-ethanol solution of ammonia (19.7 ml) and refluxed for 15 hours. After cooled to room temperature, the reaction mixture was evaporated in vacuo, and the resulting precipitate was washed with diisopropyl ether to give ethyl 5-(4-amidinophenyl)-2,4-pentadienoate hydrochloride (20.15 g).

reactant | ethyl 5-[4-{(1-ethoxy)iminomethyl}phenyl]-2,4-pentadienoate hydrochloride | 22.00 g | Cl.C(C)ON=CC1=CC=C(C=C1)C=CC=CC(=O)OCC
reactant | ammonia | 19.7 ml | N | H3N
solvent | ethanol | 220 ml | C(C)O | C2H6O
product | ethyl 5-(4-amidinophenyl)-2,4-pentadienoate hydrochloride | 20.15 g | Cl.C(N)(=N)C1=CC=C(C=C1)C=CC=CC(=O)OCC | InChI=1S/C14H16N2O2.ClH/c1-2-18-13(17)6-4-3-5-11-7-9-12(10-8-11)14(15)16;/h3-10H,2H2,1H3,(H3,15,16);1H
